US03960849
260 g. (0.507 mole + 20%) of a 15% solution of butyl lithium in n-hexane is cooled to -60° under nitrogen. At this temperature a solution of 27.6 g. of 5-amino-3-(phenylmethyl)-1,2,4-oxadiazole in 300 ml. of absolute tetrahydrofuran is added dropwise with stirring over a period of about 21/2 hours. The reaction mixture is stirred for an additional 30 minutes. Then over a period of 2 hours a proportionate stream of carbon dioxide is passed through the mixture. The cold bath is removed and the reaction mixture is permitted to come to room temperature. This mixture is concentrated in a rotary evaporator, the residue is treated with water and adjusted to pH 8. The aqueous solution is extracted with ether and the aqueous phase is acidified with 2N hydrochloric acid. The precipitate is filtered under suction and reprecipitated twice by dissolving in dilute sodium hydroxide solution and acidifying with dilute hydrochloric acid. 7.4 g. of 5-amino-α-phenyl-1,2,4-oxadiazole-3-acetic acid are obtained, m.p. 163°-164° (dec.).

reactant | butyl lithium | C(CCC)[Li]
reactant | 5-amino-3-(phenylmethyl)-1,2,4-oxadiazole | NC1=NC(=NO1)CC1=CC=CC=C1 | C9H9N3O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | n-hexane | CCCCCC | C6H14
product | 5-amino-α-phenyl-1,2,4-oxadiazole-3-acetic acid | NC1=NC(=NO1)C(C(=O)O)C1=CC=CC=C1 | C10H9N3O3
